US06610701B2
A solution of (2-cyano-benzyl)-carbamic acid tert-butyl ester (35 mg, 0.15 mmol), sodium azide (49 mg, 0.75 mmol), ammonium chloride (40 mg, 0.75 mmol) in dimethylformamide (0.5 ml) was heated to 110° C. for 8 h. After cooling to room temperature, ethyl acetate was added and the resultant solid filtered. Concentration of the filtrate gave [2-(1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester; 1H NMR (CD3OD, 400 MHz) δ7.71(d, 1H, J=7.5 Hz), 7.58 (m, 2H), 7.48 (m, 1H), 4.44 (s, 2H), 1.42 (s, 9H).

reactant | (2-cyano-benzyl)-carbamic acid tert-butyl ester | 0.15 mmol, 35 mg | C(C)(C)(C)OC(NCC1=C(C=CC=C1)C#N)=O | C13H16N2O2
reactant | sodium azide | 0.75 mmol, 49 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.75 mmol, 40 mg | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | [2-(1H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC=C1)C1=NN=NN1)=O | C13H17N5O2
